* NGSPICE file created from sky130_fd_bd_sram__sram_sp_cell_opt1.ext - technology: sky130A

.subckt sky130_fd_bd_sram__sram_sp_cell_opt1 BL BR VGND VPWR VPB VNB WL Q
X0 Q_bar WL BR VNB sky130_fd_pr__special_nfet_pass w=0.14 l=0.15
X1 Q Q_bar VGND VNB sky130_fd_pr__special_nfet_latch w=0.21 l=0.15
X2 BL WL Q VNB sky130_fd_pr__special_nfet_pass w=0.14 l=0.15
*X3 Q WL Q VPB sky130_fd_pr__special_pfet_pass w=0.07 l=0.095
*X4 Q_bar WL Q_bar VPB sky130_fd_pr__special_pfet_pass w=0.07 l=0.095
X5 VPWR Q Q_bar VPB sky130_fd_pr__special_pfet_pass w=0.14 l=0.15
X6 Q Q_bar VPWR VPB sky130_fd_pr__special_pfet_pass w=0.14 l=0.15
X7 VGND Q Q_bar VNB sky130_fd_pr__special_nfet_latch w=0.21 l=0.15
.ends
